US03979384
A solution of benzhydryl 3-diazomethyl-7β-(2-thienylacetamido)-ceph-3-em-4-carboxylate (9.0 × 10-4 mole), prepared by the process described in Example 2, in 5 ml. dichloromethane solvent is stirred at room temperature while a slow stream of hydrogen sulfide gas is bubbled in. The excess gas and solvent is removed in vacuo and the residue chromatographed over silica gel with chloroform:acetone (10:1) to give benzhydryl 3-mercaptomethyl-7β-(2-thienylacetamido)-ceph-3-em-4-carboxylate.

reactant | benzhydryl 3-diazomethyl-7β-(2-thienylacetamido)-ceph-3-em-4-carboxylate | 9.0 × 10-4 mole | [N+](=[N-])=CC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC=2SC=CC2)=O)=O | C27H22N4O4S2
reactant | hydrogen sulfide | S | H2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | benzhydryl 3-mercaptomethyl-7β-(2-thienylacetamido)-ceph-3-em-4-carboxylate | SCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC=2SC=CC2)=O)=O | C27H24N2O4S3
